US08957104B2
A. Methyl 2-(5-cyano-4-(trifluoromethyl)-1H-indol-1-yl)butanoate
Synthesized in a manner similar to Example 1 using 4-(trifluoromethyl)-1H-indole-5-carbonitrile and methyl 2-bromobutanoate: MS (ESI): m/z 311 (MH+).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | methyl 2-bromobutanoate | BrC(C(=O)OC)CC | C5H9BrO2
product | Methyl 2-(5-cyano-4-(trifluoromethyl)-1H-indol-1-yl)butanoate | C(#N)C=1C(=C2C=CN(C2=CC1)C(C(=O)OC)CC)C(F)(F)F | C15H13F3N2O2
